US08809369B2
To a suspension of methanesulfonamide (160 mg, 1.65 mmol) in N,N-dimethylformamide (3 mL) was added sodium hydride (66 mg, 1.65 mmol). The resulting mixture was stirred at 25° C. for 1 h to afford Solution A33. A solution of 2-(3-cyano-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (100 mg, 0.33 mmol) and 1,1′-carbonyldiimidazole (110 mg, 0.66 mmol) in N,N-dimethylformamide (3 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B33. Solution B33 was added to Solution A33 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded N-[2-(3-cyano-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-methanesulfonamide (25 mg, 20%) as a white solid: MS (ESI) M+1=384.3.

reactant | methanesulfonamide | 1.65 mmol, 160 mg | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 1.65 mmol, 66 mg | [H-].[Na+]
reactant | 2-(3-cyano-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.33 mmol, 100 mg | C(#N)C=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C19H18N2O2
reactant | 1,1′-carbonyldiimidazole | 0.66 mmol, 110 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | N-[2-(3-cyano-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-methanesulfonamide | 25 mg, 20% | C(#N)C=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)NS(=O)(=O)C | C20H21N3O3S
